US06888032B2
The general procedure in example 39 was followed. 3-Nitroiodobenzene (249 mg, 1.0 mmol), m-thiocresol (119 μL, 1.0 mmol), CuI (10 mg, 0.05 mmol), K2CO3 (276 mg, 2.0 mmol), ethylene glycol (111 μL, 2.0 mmol) and 2-propanol (1.0 mL) were used to obtain the 3-nitrophenyl 3-tolyl sulfide (208 mg, 85% yield) as yellow liquid. Column chromatographic solvent (hexane/ethyl acetate=20/1). Rf=0.4 (hexane/ethyl acetate=20/1). 1H NMR (CDCl3, 300 MHz) δ 7.95-7.99 (m, 2 H), 7.46 (dt, 1 H, J=7.5 Hz, 0.9 Hz), 7.38 (t, 1 H, J=8.1 Hz), 7.12-7.28 (m, 5 H), 2.36 (s, 3 H). 13C NMR (CDCl3, 75 MHz) δ 141.0, 140.0, 134.3, 134.2, 131.7, 130.8, 130.0, 129.9, 129.8, 123.1, 122.9, 120.9. MS (EI) m/z (relative intensity) 245 (100), 184 (80).

reactant | 3-Nitroiodobenzene | 1.0 mmol, 249 mg | [N+](=O)([O-])C=1C=C(C=CC1)I | C6H4INO2
reactant | m-thiocresol | 1.0 mmol, 119 μL | CC1=CC(=CC=C1)S | C7H8S
reactant | K2CO3 | 2.0 mmol, 276 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | ethylene glycol | 2.0 mmol, 111 μL | C(CO)O | C2H6O2
catalyst | CuI | 0.05 mmol, 10 mg | [Cu]I
solvent | 2-propanol | 1.0 mL | CC(C)O | C3H8O
product | 3-nitrophenyl 3-tolyl sulfide | 208 mg, 85% yield | C1(=CC(=CC=C1)SC1=CC(=CC=C1)[N+](=O)[O-])C | C13H11NO2S
